### PR TITLE
[Merged by Bors] - feat(Analysis/SpecialFunctions/Trigonometric/Bounds): bounds for `arctan` against the identity

### PR DESCRIPTION
**Pull request by b1de0**
Add `arctan_lt_self`, `arctan_le_self`, `self_lt_arctan`, `self_le_arctan`, `abs_arctan_lt_abs` and `abs_arctan_le_abs`, mirroring the existing `sin_lt`/`sin_le`/`lt_sin`/`le_sin`/`abs_sin_lt_abs`/`abs_sin_le_abs` block in the same file.

All six follow from the existing `lt_tan` by reflection in the diagonal: `tan` lies above the identity on `(0, π / 2)`, so its inverse lies below it.

---

These came up in applied work on a kernel of the form `arctan(ξ)/ξ`. Naming follows `Real.log_le_self` rather than the file-local `sin_le`; happy to rename.

I used Claude Code as an assistant: to find that `lt_tan` makes these one-liners and to draft the lemmas. I have read and checked every step.

### CODE REVIEW

**Review by wwylele — APPROVED** [review]

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Bounds.lean [hunk 1]
```diff
@@ -216,6 +217,36 @@ theorem le_tan {x : ℝ} (h1 : 0 ≤ x) (h2 : x < π / 2) : x ≤ tan x := by
...
+
+theorem self_le_arctan (h : x ≤ 0) : x ≤ arctan x := by
+  simpa using arctan_le_self <| neg_nonneg.2 h
+
+theorem abs_arctan_lt_abs (h : x ≠ 0) : |arctan x| < |x| := by
+  rcases h.lt_or_gt with h | h
+  · rw [abs_of_neg h, abs_of_neg (arctan_lt_zero.2 h)]
+    exact neg_lt_neg (self_lt_arctan h)
+  · rw [abs_of_pos h, abs_of_pos (arctan_pos.2 h)]
+    exact arctan_lt_self h
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Bounds.lean]:
```suggestion
  grind [arctan_lt_self, self_lt_arctan, arctan_pos, arctan_lt_zero]
```

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Bounds.lean [hunk 2]
```diff
@@ -216,6 +217,36 @@ theorem le_tan {x : ℝ} (h1 : 0 ≤ x) (h2 : x < π / 2) : x ≤ tan x := by
...
+
+theorem abs_arctan_le_abs : |arctan x| ≤ |x| := by
+  rcases eq_or_ne x 0 with rfl | h
+  · simp
+  · exact (abs_arctan_lt_abs h).le
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Bounds.lean]:
```suggestion
  grind [abs_arctan_lt_abs, arctan_zero]
```

**Review by j-loreaux — COMMENTED** [review]
bors merge
